US04965266
4-Diphenylmethylenepiperidine (9.5 g), N-(4-bromobutyl)phthalimide (16 g), sodium iodide (8 g) and potassium carbonate (9 g) are added to methyl ethyl ketone (200 ml) and the mixture is refluxed with stirring for 4 hours. The reaction mixture is concentrated and water (150 ml) is added to the residue. The aqueous layer is extracted three times with chloroform (each 100 ml). The combined extracts are dried over anhydrous magnesium sulfate and then concentrated. The residue is subjected to silica gel column chromatography, followed by elution with chloroform to give N-[4-(4-diphenylmethylene-1-piperidyl)butyl]phthalimide (13.7 g).

reactant | 4-Diphenylmethylenepiperidine | 9.5 g | C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=CC=C1 | C18H19N
reactant | N-(4-bromobutyl)phthalimide | 16 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | sodium iodide | 8 g | [I-].[Na+]
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | N-[4-(4-diphenylmethylene-1-piperidyl)butyl]phthalimide | 13.7 g | C1(=CC=CC=C1)C(=C1CCN(CC1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C30H30N2O2
